US04567189
2,3-Epoxypropyl-4-methoxybenzyl ether (100 g, 0.725M) in dry tetrahydrofuran (200 ml) was treated with imidazole (44.4 g, 0.765M) and heated under reflux for 16 hours. The solution was filtered and the solvent was evaporated off under reduced pressure to give a brown solid which was recrystallised from 10% water-propan-1-ol to give 1-[2-Hydroxy-3-[(4-methoxyphenyl)methoxy]propyl]-1H-imidazole (83 g) as a colourless crystalline solid, m.p. 96°-98° C.

reactant | 2,3-Epoxypropyl-4-methoxybenzyl ether | 0.725M, 100 g | O1C(CC(C2=CC=C(C=C2)OC)OC(C2=CC=C(C=C2)OC)CC2CO2)C1 | C22H26O5
reactant | imidazole | 0.765M, 44.4 g | N1C=NC=C1 | C3H4N2
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-[2-Hydroxy-3-[(4-methoxyphenyl)methoxy]propyl]-1H-imidazole | 83 g | OC(CN1C=NC=C1)COCC1=CC=C(C=C1)OC | C14H18N2O3
